US07189851B2
A. 2-(4-bromo-2-furyl)-1,3-dioxolane
A benzene (58 mL) solution of 4-bromo-2-thiophene carboxaldehyde (10.14 g 57.95 mmol), ethylene glycol (9.70 mL, 173.85 mmol) and p-toluenesulfonic acid monohydrate (1.10 g, 5.79 mmol) was refluxed with azeotropic removal of H2O for 6 h and then cooled to ambient temperature. The reaction mixture was diluted with Et2O and the organics were washed with sat'd NaHCO3, brine and then dried (MgSO4), filtered and concentrated. Chromatography on silica gel using 95:5 Hexanes:EtOAc eluted the product to provide the title compound upon concentration as a yellow oil (12.69 g 100% yield): 1H NMR (CDCl3, 400 MHz) δ 7.45 (s, 1H), 6.52 (s, 1H), 5.92 (s, 1H), 4.17–4.00 (m, 4H).

reactant | benzene | 58 mL | C1=CC=CC=C1 | C6H6
reactant | 4-bromo-2-thiophene carboxaldehyde | 57.95 mmol, 10.14 g | BrC=1C=C(SC1)C=O | C5H3BrOS
reactant | ethylene glycol | 173.85 mmol, 9.70 mL | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid monohydrate | 5.79 mmol, 1.10 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | Et2O | CCOCC | C4H10O
solvent | H2O | O | H2O
product | 2-(4-bromo-2-furyl)-1,3-dioxolane | 100% yield | BrC=1C=C(OC1)C1OCCO1 | C7H7BrO3
